US04245107
468 mg. of 3-(2-methyl-1,3,4-thiadiazol-5-ylsulfinyl)butyric acid and 7-amino-3-azidomethyl-3-cephem-4-carboxylic acid were reacted in the same manner as described in Example 28 and 163 mg. of 7-[3-(2-methyl-1,3,4-thiadiazol-5-ylsulfinyl)butyramido]-3-azidomethyl-3-cephem-4-carboxylic acid were obtained.

reactant | 3-(2-methyl-1,3,4-thiadiazol-5-ylsulfinyl)butyric acid | CC=1SC(=NN1)S(=O)C(CC(=O)O)C | C7H10N2O3S2
reactant | 7-amino-3-azidomethyl-3-cephem-4-carboxylic acid | NC1[C@@H]2N(C(=C(CS2)CN=[N+]=[N-])C(=O)O)C1=O | C8H9N5O3S
product | 7-[3-(2-methyl-1,3,4-thiadiazol-5-ylsulfinyl)butyramido]-3-azidomethyl-3-cephem-4-carboxylic acid | CC=1SC(=NN1)S(=O)C(CC(=O)NC1[C@@H]2N(C(=C(CS2)CN=[N+]=[N-])C(=O)O)C1=O)C | C15H17N7O5S3
